US07112587B2
Synthesis of 6-isopropoxy-N-(3-Chloro-4-methoxy phenyl)-N′-cyclo heptyl-[1,3,5] triazine-2,4 diamine (E34)
To a portion of 6-chloro-N-(3-chloro-4-methoxyphenyl)-N′-cycloheptyl-[1,3,5] triazine-2,4-diamine (5 g) in isopropanol was added K2CO3 (3.2 g) and refluxed for about 10-12 h. TLC was monitored. After the completion of the reaction, the reaction mass was filtered through vacuum and the filtrate was evaporated to yield the title compound. (Wt. 3.7 g Y: 70%).

reactant | 6-chloro-N-(3-chloro-4-methoxyphenyl)-N′-cycloheptyl-[1,3,5] triazine-2,4-diamine | 5 g | ClC1=NC(=NC(=N1)NC1=CC(=C(C=C1)OC)Cl)NC1CCCCCC1 | C17H21Cl2N5O
reactant | K2CO3 | 3.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isopropanol | C(C)(C)O | C3H8O
product | 6-isopropoxy-N-(3-Chloro-4-methoxy phenyl)-N′-cyclo heptyl-[1,3,5] triazine-2,4 diamine | C(C)(C)OC1=NC(=NC(=N1)NC1=CC(=C(C=C1)OC)Cl)NC1CCCCCC1 | C20H28ClN5O2
